US07618990B2
Triethylamine (3.1 mL, 22.3 mmol) was added under nitrogen to a mixture of 2-(4-bromophenyl)-2-oxoethyl thiocyanate (5.2024 g, 20.3 mmol), prepared in step 1 of Example 1, and 1-ethoxycarbonyl-cyclopropyl-ammonium chloride (3.7001 g, 22.3 mmol), prepared in the previous step, in 400 mL of absolute ethanol. After the addition, the reaction was stirred at 65° C. for 4 days. The reaction was concentrated under reduced pressure to remove the ethanol. The residue was taken up in methylene chloride, applied to a Biotage FLASH 25+™ cartridge and the methylene chloride allowed to evaporate. Purification of the residue on the samplet on a Horizon™ Flash Collector (the Biotage FLASH 25+™ cartridge) using a linear gradient of 5% ethyl acetate-hexane to 100% ethyl acetate gave ethyl 1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclopropane carboxylate (2.66 g, 36%) as a light yellow solid, mp 152-154° C.; MS m/z 367.

reactant | Triethylamine | 22.3 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(4-bromophenyl)-2-oxoethyl thiocyanate | 20.3 mmol, 5.2024 g | BrC1=CC=C(C=C1)C(CSC#N)=O | C9H6BrNOS
reactant | 1-ethoxycarbonyl-cyclopropyl-ammonium chloride | 22.3 mmol, 3.7001 g | [Cl-].C(C)OC(=O)C1(CC1)[NH3+]
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | ethyl 1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclopropane carboxylate | 2.66 g, 36% | BrC1=CC=C(C=C1)C=1N=C(SC1)NC1(CC1)C(=O)OCC | C15H15BrN2O2S
